US08871269B2
A second octreotide-pamoate complex was prepared by dissolving pamoic acid (19.4 mg, 0.05 mmol) in 0.4 N NaOH (250 μL) and dioxane (250 μL) to provide a solution of sodium pamoate in dioxane/water (1:1). Octreotide acetate (50 mg, 0.05 mmol) was dissolved in dioxane/water (1:1, 200 μL). The octreotide acetate solution was added drop wise to the sodium pamoate with mixing to provide a light yellow, homogenous solution. This material was lyophilized to dryness providing a light yellow powder (65 mg). The octreotide/pamoate ratio of this preparation was 1.02 as measured by RP-HPLC. These two preparations were used to prepare new PLGA microparticle formulations.

reactant | pamoic acid | 0.05 mmol, 19.4 mg | C=1C=CC=2C(C1)=CC(=C(C2CC3=C4C=CC=CC4=CC(=C3O)C(=O)O)O)C(=O)O | C23H16O6
reactant | NaOH | 0.4 N, 250 μL | [OH-].[Na+]
solvent | dioxane | 250 μL | O1CCOCC1 | C4H8O2
solvent | dioxane water | O1CCOCC1.O
product | sodium pamoate | C1=CC=C2C(=C1)C=C(C(=C2CC3=C(C(=CC4=CC=CC=C43)C(=O)O)[O-])[O-])C(=O)O.[Na+].[Na+] | InChI=1S/C23H16O6.2Na/c24-20-16(14-7-3-1-5-12(14)9-18(20)22(26)27)11-17-15-8-4-2-6-13(15)10-19(21(17)25)23(28)29;;/h1-10,24-25H,11H2,(H,26,27)(H,28,29);;/q;2*+1/p-2
